US08013010B2
3,5-Dimethyl-4-(3-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 13, starting from 4-bromo-3,5-dimethylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation III, and 3-pyridineboronic acid, the expected product is obtained in the form of a colorless foam with a yield of 45%.

reactant | 4-bromo-3,5-dimethylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=C(C(=C2)C)Br)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H23BrO7S
reactant | 3-pyridineboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 3,5-Dimethyl-4-(3-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 45% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=C(C(=C2)C)C=2C=NC=CC2)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C24H27NO7S
